US06159962
3,4-Dihydro-5-methyl-6-dimethylcarbamoyl-3-[2-(4-(2-methoxy-phenyl)-1-piperazinyl) ethyl]thieno(2,3-d]pyrimidin-4-one [sic]
1.9 g (8.0 mM [sic]) of 1-(2-aminoethyl)-4-(2-methoxyphenyl)-piperazine were added to 2.4 g (7.8 mM [sic]) of 2-ethoxymethyleneamino-3-carboethoxy-4-methyl-5-dimethylcarbamoyl thiophene in 30 ml of ethanol and refluxed for 2 h. The product crystallized out after standing overnight and was filtered off with suction and washed with a little ethanol. 2.2 g (62%) of product were isolated with melting point 188-190° C.

reactant | 1-(2-aminoethyl)-4-(2-methoxyphenyl)-piperazine | 8.0 mM, 1.9 g | NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C13H21N3O
reactant | 2-ethoxymethyleneamino-3-carboethoxy-4-methyl-5-dimethylcarbamoyl thiophene | 7.8 mM, 2.4 g | C(C)OC=NC=1SC(=C(C1C(=O)OCC)C)C(N(C)C)=O | C14H20N2O4S
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 3,4-Dihydro-5-methyl-6-dimethylcarbamoyl-3-[2-(4-(2-methoxy-phenyl)-1-piperazinyl) ethyl]thieno(2,3-d]pyrimidin-4-one | 2.2 g, 62% | CC1=C(SC=2N=CN(C(C21)=O)CCN2CCN(CC2)C2=C(C=CC=C2)OC)C(N(C)C)=O | C23H29N5O3S
